US06355636B1
To 30 g of (6-fluoro-pyridin-3-yl)-carbamic acid, tert-butyl ester in 60 mL of tetramethylethylenediamine and 750 mL of ether at −78° C. under an inert atmosphere was added slowly 180 mL of 2.5 M n-butyllithium/hexanes (3 eq). After the addition was complete, the reaction was allowed to warm to −15° C. for 5 minutes then recooled to −78° C. Dry ice was allowed to sublime in a separate flask and the vapor was passed over the rapidly stirred reaction mixture while the cooling bath was removed and the reaction allowed to warm to 0° C. Sufficient water was added to dissolve the precipitated product and the resultant aqueous phase was washed twice with ether before acidifying with concentrated HCl. The precipitate was filtered, washed with water, and dried in vacuo to give 21.2 g of 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid, which was used as is for the next step: melting point 240-245° C. (decomposed); mass spectrum (negative mode, m/e): M−H 255.2.

reactant | (6-fluoro-pyridin-3-yl)-carbamic acid, tert-butyl ester | 30 g | FC1=CC=C(C=N1)NC(OC(C)(C)C)=O | C10H13FN2O2
reactant | Dry ice | C(=O)=O | CO2
solvent | tetramethylethylenediamine | 60 mL | CN(CCN(C)C)C | C6H16N2
solvent | ether | 750 mL | CCOCC | C4H10O
product | 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid | 21.2 g | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)F | C11H13FN2O4
